US09302996B2
N,N-dimethylformamide (3 mL) was added to 5-bromo-3-chloro-2-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyridine (365 mg), ethyl 1-({[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]-oxy}methyl)cyclobutanecarboxylate (300 mg) and palladium chloride (dppf) methylene chloride complex (33 mg), and after adding 2N aqueous sodium carbonate solution (1.2 mL) to the mixture, the atmosphere was replaced with nitrogen and the mixture was stirred at 65° C. for 2 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated brine, concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0 to 90:10) to obtain ethyl 1-[({5′-chloro-4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)methyl]cyclobutanecarboxylate (318 mg).

reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
reactant | 5-bromo-3-chloro-2-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyridine | 365 mg | BrC=1C=C(C(=NC1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)Cl | C15H18BrClF3N3OSi
reactant | ethyl 1-({[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]-oxy}methyl)cyclobutanecarboxylate | 300 mg | CC1=CC(=NC=C1B1OC(C(O1)(C)C)(C)C)OCC1(CCC1)C(=O)OCC | C20H30BNO5
reactant | sodium carbonate | 2N, 1.2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | Water | O | H2O
product | ethyl 1-[({5′-chloro-4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)methyl]cyclobutanecarboxylate | 318 mg | ClC=1C=C(C=NC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C=NC(=CC1C)OCC1(CCC1)C(=O)OCC | C29H36ClF3N4O4Si
